US07846929B2
To a solution of (+/−)-3-amino-1N—BOC-pyrrolidine (0.5 g) in MeCN (10 mL) was added triethylamine (0.41 mL) then methanesulfonyl chloride (0.22 mL). The mixture was stirred for 2.5 h. An aqueous work-up followed by purification on silica gave 3-methanesulfonylamino-pyrrolidine-1-carboxylic acid tert-butyl ester (0.49 g).

reactant | (+/−)-3-amino-1N—BOC-pyrrolidine | 0.5 g | NC1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | triethylamine | 0.41 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.22 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | MeCN | 10 mL | CC#N | C2H3N
product | 3-methanesulfonylamino-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.49 g | C(C)(C)(C)OC(=O)N1CC(CC1)NS(=O)(=O)C | C10H20N2O4S
